US04771055
2-(Dimethylamino)-3,4,5,6-tetrafluoro-β-oxo-benzenepropanoic acid, ethyl ester
To a solution of 4.76 g (36 mmol) of malonic acid monoethyl ester and 75 ml of THF at -35° was added 25 ml (40 mmol) of 1.5N n-butyl lithium solution. The remaining 25 ml (40 mmol) of 1.5N butyllithium solution was added at 0°. After cooling to -78°, a solution of the 4.8 g of 2-(dimethylamino)-3,4,5,6-tetrafluorobenzoyl chloride in 50 ml of THF was added to the dilithio malonate over a 15 minute period. The reaction mixture was stirred for 1.75 hours while the temperature came up to -30°. The reaction mixture was poured into ice, water, and 50 ml of 1N HCl. The mixture was extracted with ether and the ether extract was washed with H2O, 5% NaHCO3, and HCl. After drying over MgSO4 the ether solution was concentrated to 4.4 g of oily product. NMR spectra indicated the desired product.

reactant | malonic acid monoethyl ester | 36 mmol, 4.76 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | n-butyl lithium | 40 mmol, 1.5N, 25 ml | C(CCC)[Li]
reactant | butyllithium | 40 mmol, 1.5N, 25 ml | C(CCC)[Li]
reactant | 2-(dimethylamino)-3,4,5,6-tetrafluorobenzoyl chloride | 4.8 g | CN(C1=C(C(=O)Cl)C(=C(C(=C1F)F)F)F)C | C9H6ClF4NO
reactant | dilithio malonate | C(CC(=O)O[Li])(=O)O[Li]
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(Dimethylamino)-3,4,5,6-tetrafluoro-β-oxo-benzenepropanoic acid, ethyl ester | CN(C1=C(C(=C(C(=C1F)F)F)F)C(CC(=O)OCC)=O)C | C13H13F4NO3
